* BSIM-CMG Id-Vd — openvaf 基准
VDD vdd 0 1.0
RD  vdd d  1k
VG  g   0 1.0
M1  d g 0 0 nmos1 TFIN=15n L=40n NFIN=10 NRS=1 NRD=1
.model nmos1 bsimcmg file="G:/vibe-codeing/simulator/CktCraft/models/bsimcmg_v110.dll"
+ AGIDL = 50.00f 
+ AGISL = 50.00f 
+ AIGBINV = 11.10m 
+ AIGC = 13.60m 
+ AT = 0.007
+ BG0SUB = 1.120  
+ BGIDL = 400.0E6
+ BGISL = 400.0E6
+ BIGBINV =-1.000m
+ BIGC = 1.710m 
+ BULKMOD = 1
+ CDSC = 5.000m
+ CDSCD = 5.000m
+ CFS = 1.0e-10
+ CFD = 1.0e-10
+ CGEOMOD = 0
+ CGSL = 1.0e-10
+ CGDL = 1.0e-10
+ CIGBINV = 6.000m 
+ CIGC = 75.00m 
+ CIT = 0.000    
+ CTH0 = 2.0e-5
+ D = 40n
+ DELTAW = 0.000  
+ DELTAWCV = 0.000  
+ TYPE = 1.000
+ DLC = 0.000  
+ DROUT = 0.530
+ DSUB = 0.530
+ DVT0 = 0.000
+ DVT1 = 300.0m 
+ EASUB = 4.050  
+ EGIDL = 0.000 
+ EGISL = 0.000 
+ EIGBINV = 1.100  
+ EOT = 1.0n
+ EPSROX = 3.900  
+ EPSRSUB = 11.90  
+ ETA0 = 70.0m
+ ETAMOB = 2.500  
+ EU = 0.9
+ FECH = 2.000  
+ FECHCV = 1.000  
+ GEOMOD = 1.000  
+ GIDLMOD = 1.000  
+ HFIN = 30n
+ IGCMOD = 1.000
+ IGBMOD = 1.000
+ K1RSCE = 0.000  
+ KSATIV = 1.000  
+ KT1 = 0.0
+ LINT = 0.000  
+ LL = 0.000  
+ LLC = 0.000  
+ LLN = 1.000  
+ LPA = 0.000
+ LPE0 = 5.000n 
+ MEXP = 3
+ NBODY = 1E+24
+ NC0SUB = 2.86000E+25 
+ NGATE = 0.0
+ NI0SUB = 1.10000E+16 
+ NIGBINV = 3.000  
+ NSD = 2.00000E+26 
+ PCLM = 0.000
+ PDIBL1 = 0.300
+ PDIBL2 = 0.000
+ PHIG  = 4.610
+ PHIN = 50.00m 
+ PRWGS = 0.000
+ PVAG = 0.000
+ QMFACTOR = 0.000  
+ RDSW = 100.0
+ RDSWMIN = 0.000
+ RSHS = 2.0
+ RTH0 = 0.05
+ U0 = 40m
+ UA = 0.100
+ UA1 = 1.032m
+ UCS = 1.0
+ UD = 1.0
+ UP = 0.000  
+ UTE = 0.000 
+ UTL =-1.497m
+ VSAT = 150K
+ WR = 1.000  
+ XL = -5.00n  
+ IIMOD =0.0   
+ BETAII0 = 0
+ BETAII1 = .028   
+ BETAII2 = .067
+ TII = -0.7         
+ SII0 = 3.4  
+ SII1 = .8
+ SII2 = .08 
+ SIID = 0.08
+ ESATII = 1.7e6  
+ LII = 3e-9
+ RGATEMOD = 0
+ RGFIN = 100
+ NQSMOD = 0
+ RDSMOD = 0
+ SHMOD = 0
.op
.print v(d) i(vdd)
.end
