* BSIM4 Direct I-V rfsim  
VDS d 0 1.0  
VGS g 0 0.8  
VBS b 0 0.0  
  
M1 d g 0 b nmos w=1u l=130n  
  
.model nmos bsim4va generated=1  
+ toxe=3e-9 toxp=3e-9  
+ vth0=0.5 k1=0.5 k2=0 k3=0  
+ dvt0=1 dvt1=2 dvt2=-0.032  
+ u0=0.045 ua=-1e-10 ub=0  
+ vsat=1.5e5 rdsw=160 nfactor=1.2  
+ cgso=0.1e-9 cgdo=0.1e-9 cgbo=0  
+ cjs=1e-3 cjd=1e-3 cjsws=1e-10 cjswd=1e-10  
+ mjs=0.5 mjd=0.5 mjsws=0.33 mjswd=0.33  
+ pbs=0.88 pbd=0.88 pbsws=0.88 pbswd=0.88  
  
.op  
.print v(d) i(vds)  
.end  
