* BSIM4 Golden DC OP — HSPICE reference (level=54 = BSIM4.8)
* Common-source: VDD=1V -> RD=1k -> drain; VG=0.7V -> gate; source/bulk=GND
* PTM 130nm BSIM4 parameters

VDD vdd 0 1.0
RD  vdd d  1k
VG  g   0 0.7

M1 d g 0 0 nmos w=1u l=130n

.model nmos nmos level=54
+ toxe=3e-9 toxp=3e-9
+ vth0=0.5 k1=0.5 k2=0 k3=0
+ dvt0=1 dvt1=2 dvt2=-0.032
+ u0=0.045 ua=-1e-10 ub=0
+ vsat=1.5e5 rdsw=160 nfactor=1.2
+ cgso=0.1e-9 cgdo=0.1e-9 cgbo=0
+ cjs=1e-3 cjd=1e-3 cjsws=1e-10 cjswd=1e-10
+ mjs=0.5 mjd=0.5 mjsws=0.33 mjswd=0.33
+ pbs=0.88 pbd=0.88 pbsws=0.88 pbswd=0.88

.op
.print dc v(d) v(g) i(VDD)

.temp 27
.end
