* NMOS Inverter Chain (3 stages) — rfsim generated BSIM4
* Resistive-load NMOS inverters, DC sweep + transient

VDD vdd 0 1.0
VIN in 0 0.5

* Stage 1: VIN -> mid1
RL1 vdd mid1 10k
MN1 mid1 in 0 0 nmos w=1u l=130n

* Stage 2: mid1 -> mid2
RL2 vdd mid2 10k
MN2 mid2 mid1 0 0 nmos w=1u l=130n

* Stage 3: mid2 -> out
RL3 vdd out 10k
MN3 out mid2 0 0 nmos w=1u l=130n

.model nmos bsim4va generated=1
+ toxe=3e-9 toxp=3e-9
+ vth0=0.5 k1=0.5 k2=0 k3=0
+ dvt0=1 dvt1=2 dvt2=-0.032
+ u0=0.045 ua=-1e-10 ub=0
+ vsat=1.5e5 rdsw=160 nfactor=1.2
+ cgso=0.1e-9 cgdo=0.1e-9 cgbo=0
+ cjs=1e-3 cjd=1e-3 cjsws=1e-10 cjswd=1e-10
+ mjs=0.5 mjd=0.5 mjsws=0.33 mjswd=0.33
+ pbs=0.88 pbd=0.88 pbsws=0.88 pbswd=0.88

.dc VIN 0.0 1.0 0.05
.print v(in) v(mid1) v(mid2) v(out) i(VDD)
.end
